US07696210B2
1-Bromo-4-(2,2,2-trifluoro-1-trifluoromethyl-ethyl)-benzene
1-(4-Bromo-phenyl)-2,2,2-trifluoro-ethanone (500 mg, 2 mmol) and triphenylphosphine (1.05 g, 4 mmol) were dissolved in diglyme (25 ml) and heated to 150° C. in a three-neck flask fitted with both an addition funnel and a reflux condenser under nitrogen. A solution of sodium chlorodifluoroacetate, dissolved in diglyme (13 ml), was slowly added via the addition funnel. The addition took about one hour. After it was complete, the reaction mixture was allowed to stir for an additional hour. It was then cooled to below 100° C., and potassium fluoride (476 mg, 8.2 mmol) and water (0.3 ml) were added. The mixture was allowed to stir for 18 h at 95° C. The reaction mixture was heated to 130° C., water was added and the title product was steam distilled into a collection flask (with a large amount of diglyme, complicating yield calculations). 1H NMR (CDCl3) δ=7.61 (d, J=8.4 Hz, 2H), 7.32 (d, J=8.4 Hz, 2H), 4.06 (septet, JH,F=8.2 Hz, 1H).

reactant | 1-(4-Bromo-phenyl)-2,2,2-trifluoro-ethanone | 2 mmol, 500 mg | BrC1=CC=C(C=C1)C(C(F)(F)F)=O | C8H4BrF3O
reactant | triphenylphosphine | 4 mmol, 1.05 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium chlorodifluoroacetate | ClC(C(=O)[O-])(F)F.[Na+]
reactant | potassium fluoride | 8.2 mmol, 476 mg | [F-].[K+]
solvent | diglyme | 25 ml | COCCOCCOC | C6H14O3
solvent | diglyme | 13 ml | COCCOCCOC | C6H14O3
solvent | water | O | H2O
solvent | water | 0.3 ml | O | H2O
product | 1-Bromo-4-(2,2,2-trifluoro-1-trifluoromethyl-ethyl)-benzene | BrC1=CC=C(C=C1)C(C(F)(F)F)C(F)(F)F | C9H5BrF6
